US06951879B2
According to the method in example 29, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[b]thiophene and diethanolamine were converted to yield 2-[{4-[3-(4-Bromo-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-(2-hydroxy-ethyl)-amino]-ethanol as light yellow oil, MS: 464 (MH+,1 Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)Br)C1 | C18H16Br2OS
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 2-[{4-[3-(4-Bromo-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-(2-hydroxy-ethyl)-amino]-ethanol | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCCN(CCO)CCO | C22H26BrNO3S
